US06903215B2
To a solution of 620 mg (1.84 mmol) of 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-2-trifluoromethylpent-4-enoic acid ethyl ester, 475 mg zinc copper couple, and an iodine crystal in anhydrous ether in a sealed tube warmed to 55° C. was added dropwise 500 μL (6.20 mmol) of diiodomethane. The reaction was monitored by TLC in dichloromethane-hexanes (1:1) or ether-hexanes (2:8). After 18 hours, the mixture was cooled, diluted with EtOAc, and filtered through diatomaceous earth. The filtrate was washed with three 10 mL portions of 1 N aqueous HCl, 10 mL of brine, three 10 mL portions of saturated aqueous sodium bicarbonate, dried over magnesium sulfate, filtered, and concentrated. The crude material was adsorbed onto silica gel and chromatographed on silica gel using ether-hexanes (0:100, then 1:99, then 2:98) to afford 494 mg (76%) of 3,3,3-trifluoro-2-[1-(5-fluoro-2-methoxyphenyl)cyclopropylmethyl]-2-hydroxypropionic acid ethyl ester.

reactant | 4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-2-trifluoromethylpent-4-enoic acid ethyl ester | 1.84 mmol, 620 mg | C(C)OC(C(CC(=C)C1=C(C=CC(=C1)F)OC)(C(F)(F)F)O)=O | C15H16F4O4
reactant | iodine | II | I2
reactant | diiodomethane | 6.20 mmol, 500 μL | ICI | CH2I2
solvent | ether | CCOCC | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | zinc copper couple | 475 mg | [Cu].[Zn]
product | 3,3,3-trifluoro-2-[1-(5-fluoro-2-methoxyphenyl)cyclopropylmethyl]-2-hydroxypropionic acid ethyl ester | 494 mg, 76% | C(C)OC(C(C(F)(F)F)(O)CC1(CC1)C1=C(C=CC(=C1)F)OC)=O | C16H18F4O4
